US07528142B2
N-(4-((4-(3-methyl-1H-pyrazol-5-ylamino)-6-(3-cyclopropyl-3-hydroxyazetidin-1-yl)pyrimidin-2-yl)sulfanyl)phenyl)cyclopentanecarboxamide (I-9)
To a suspension of N-(4-(4-(3-methyl-1H-pyrazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopentanecarboxamide (200 mg, 0.47 mmol) and 3-cyclopropyl azetidin-3-ol hydrochloride (70 mg, 0.47 mmol) in n-BuOH (5 ml) was added diisopropylethylamine (239 mg, 1.88 mmol, 0.30 ml). The mixture was heated to 100° C. for 16 hrs and then allowed to cool to room temperature and diluted with EtOAc (30 ml) and sat NaHCO-3. The organic layer washed with brine, dried (Na2SO4) and concentrated. Crude product was then purified by flash chromatography EtOAc 5% MeOH:EtOAc to give title compound as an off white solid (70 mg, 30%). 1H NMR (DMSO-d6) 0.30-0.35 (2H, m), 0.39-0.44 (2H, m), 1.16-1.21 (1H, m), 1.56-1.75 (6H, m), 1.83-1.90 (2H, m), 2.00 (3H, s), 2.76-2.82 (1H, m), 3.65 (4H, dd), 5.35 (1H, s), 5.58 (1H, s), 7.47 (2H, d), 7.72 (2H, d), 9.19 (1H, s), 10.06 (1H, s), 11.65 (1H, s). ES+ 506.

reactant | N-(4-(4-(3-methyl-1H-pyrazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopentanecarboxamide | 0.47 mmol, 200 mg | CC1=NNC(=C1)NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CCCC1 | C20H21ClN6OS
reactant | 3-cyclopropyl azetidin-3-ol hydrochloride | 0.47 mmol, 70 mg | Cl.C1(CC1)C1(CNC1)O
reactant | diisopropylethylamine | 1.88 mmol, 0.30 ml, 239 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | n-BuOH | 5 ml | CCCCO | C4H10O
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | N-(4-((4-(3-methyl-1H-pyrazol-5-ylamino)-6-(3-cyclopropyl-3-hydroxyazetidin-1-yl)pyrimidin-2-yl)sulfanyl)phenyl)cyclopentanecarboxamide | CC1=NNC(=C1)NC1=NC(=NC(=C1)N1CC(C1)(O)C1CC1)SC1=CC=C(C=C1)NC(=O)C1CCCC1 | C26H31N7O2S
